US08710049B2
To a round bottom flask was added 2-(4-nitrophenyl)-2-azabicyclo[2.2.1]heptan-6-ol (150 mg, 0.640 mmol), Et3N (0.446 mL, 3.20 mmol) and CH2Cl2 (3 mL). The reaction was cooled to 0° C. Pyridine sulfur trioxide (510 mg, 3.20 mmol) and DMSO (0.909 mL, 12.81 mmol) were mixed in a vial until the solution turned clear and then this clear solution was added to the reaction mixture at 0° C. The reaction was slowly warmed to rt and stirred at rt for 2 hrs. The reaction was diluted with CH2Cl2 (25 ml). The organic solution was washed with water (2×20 ml) and saturated aqueous NaCl (20 ml). The organic layer was dried with MgSO4, filtered and concentrated. The resulting residue was purified using silica gel chromatography (ISCO system) eluting with a gradient of 0-100% EtOAc/Hex to give the product, 2-(4-nitrophenyl)-2-azabicyclo[2.2.1]heptan-6-one, (80 mg, 0.344 mmol, 54% yield) as a yellow solid. Anal. Calcd. for C12H12N2O3 m/z 232.2, found: 233.2 (M+H)+.

reactant | 2-(4-nitrophenyl)-2-azabicyclo[2.2.1]heptan-6-ol | 0.640 mmol, 150 mg | [N+](=O)([O-])C1=CC=C(C=C1)N1C2C(CC(C1)C2)O | C12H14N2O3
reactant | Et3N | 3.20 mmol, 0.446 mL | CCN(CC)CC | C6H15N
reactant | Pyridine sulfur trioxide | 3.20 mmol, 510 mg | S(=O)(=O)=O.N1=CC=CC=C1
reactant | DMSO | 12.81 mmol, 0.909 mL | CS(=O)C | C2H6OS
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-nitrophenyl)-2-azabicyclo[2.2.1]heptan-6-one | 0.344 mmol, 80 mg, 54% yield | [N+](=O)([O-])C1=CC=C(C=C1)N1C2C(CC(C1)C2)=O | C12H12N2O3
